* File: ring_oscillator.pex.netlist.pex
* Created: Mon May  9 21:57:26 2022
* Program "Calibre xRC"
* Version "v2016.4_15.11"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_RING_OSCILLATOR%NET1 7 8 12 13 19 23 29 33
c0 47 0 0.0471295f
c1 41 0 0.0183067f
c2 37 0 0.126862f
c3 36 0 0.0895831f
c4 33 0 0.172518f
c5 29 0 0.113338f
c6 25 0 0.0591312f
c7 23 0 0.14592f
c8 19 0 0.0847684f
c9 16 0 0.124843f
c10 11 0 0.257126f
c11 6 0 0.038267f
r12 39 40 8.03118
r13 37 47 0.0696043
r14 36 39 0.342
r15 36 38 8.40918
r16 36 37 13.2552
r17 31 41 3.81101
r18 31 33 56.5
r19 27 41 3.81101
r20 27 29 33.5
r21 26 39 5.0159
r22 25 41 0.990414
r23 25 26 25.5
r24 23 40 49.5
r25 19 38 24.5
r26 15 16 16.3327
r27 13 15 4.59
r28 12 15 4.59
r29 10 11 5.44423
r30 8 10 1.53
r31 7 10 1.53
r32 5 11 0.328696
r33 5 6 0.0296412
r34 4 16 0.188391
r35 4 6 0.0296412
r36 3 6 0.00770322
r37 3 47 0.143043
.ends

.subckt PM_RING_OSCILLATOR%NET2 7 8 12 13 19 23 29 33
c0 47 0 0.0471295f
c1 41 0 0.0183067f
c2 37 0 0.126862f
c3 36 0 0.0895831f
c4 33 0 0.172518f
c5 29 0 0.113338f
c6 25 0 0.0591312f
c7 23 0 0.14592f
c8 19 0 0.0847684f
c9 16 0 0.124616f
c10 11 0 0.2485f
c11 6 0 0.0384304f
r12 39 40 8.03118
r13 37 47 0.0696043
r14 36 39 0.342
r15 36 38 8.40918
r16 36 37 13.2552
r17 31 41 3.81101
r18 31 33 56.5
r19 27 41 3.81101
r20 27 29 33.5
r21 26 39 5.0159
r22 25 41 0.990414
r23 25 26 25.5
r24 23 40 49.5
r25 19 38 24.5
r26 15 16 16.3327
r27 13 15 4.59
r28 12 15 4.59
r29 10 11 5.44423
r30 8 10 1.53
r31 7 10 1.53
r32 5 11 0.328696
r33 5 6 0.0296412
r34 4 16 0.188391
r35 4 6 0.0296412
r36 3 6 0.00770322
r37 3 47 0.143043
.ends

.subckt PM_RING_OSCILLATOR%NET3 7 8 12 13 19 23 29 33
c0 47 0 0.0471295f
c1 41 0 0.0183067f
c2 37 0 0.126862f
c3 36 0 0.0895831f
c4 33 0 0.172518f
c5 29 0 0.113338f
c6 25 0 0.0591312f
c7 23 0 0.14592f
c8 19 0 0.0847684f
c9 16 0 0.124616f
c10 11 0 0.2485f
c11 6 0 0.0384304f
r12 39 40 8.03118
r13 37 47 0.0696043
r14 36 39 0.342
r15 36 38 8.40918
r16 36 37 13.2552
r17 31 41 3.81101
r18 31 33 56.5
r19 27 41 3.81101
r20 27 29 33.5
r21 26 39 5.0159
r22 25 41 0.990414
r23 25 26 25.5
r24 23 40 49.5
r25 19 38 24.5
r26 15 16 16.3327
r27 13 15 4.59
r28 12 15 4.59
r29 10 11 5.44423
r30 8 10 1.53
r31 7 10 1.53
r32 5 11 0.328696
r33 5 6 0.0296412
r34 4 16 0.188391
r35 4 6 0.0296412
r36 3 6 0.00770322
r37 3 47 0.143043
.ends

.subckt PM_RING_OSCILLATOR%NET4 7 8 12 13 19 23 29 33
c0 47 0 0.0471295f
c1 41 0 0.0129231f
c2 37 0 0.126763f
c3 36 0 0.0895831f
c4 33 0 0.126599f
c5 29 0 0.0916333f
c6 25 0 0.059189f
c7 23 0 0.14592f
c8 19 0 0.0847684f
c9 16 0 0.124616f
c10 11 0 0.2485f
c11 6 0 0.0384304f
r12 39 40 8.03118
r13 37 47 0.0696043
r14 36 39 0.342
r15 36 38 8.40918
r16 36 37 13.2552
r17 31 41 3.81101
r18 31 33 56.5
r19 27 41 3.81101
r20 27 29 33.5
r21 26 39 5.0159
r22 25 41 0.990414
r23 25 26 25.5
r24 23 40 49.5
r25 19 38 24.5
r26 15 16 16.3327
r27 13 15 4.59
r28 12 15 4.59
r29 10 11 5.44423
r30 8 10 1.53
r31 7 10 1.53
r32 5 11 0.328696
r33 5 6 0.0296412
r34 4 16 0.188391
r35 4 6 0.0296412
r36 3 6 0.00770322
r37 3 47 0.143043
.ends

.subckt PM_RING_OSCILLATOR%VIN 16 17 18 22 23 29 33 39 43
c0 57 0 0.0189104f
c1 51 0 0.0183067f
c2 47 0 0.13151f
c3 46 0 0.0720563f
c4 43 0 0.172559f
c5 39 0 0.113385f
c6 35 0 0.0591312f
c7 33 0 0.106885f
c8 29 0 0.0702385f
c9 26 0 0.125778f
c10 21 0 0.239362f
c11 14 0 0.0417422f
c12 11 0 0.404994f
c13 10 0 0.0182917f
c14 8 0 0.10521f
c15 7 0 0.0174766f
c16 6 0 1.12656f
c17 5 0 0.0174766f
c18 3 0 0.363569f
r19 49 50 8.03118
r20 47 57 0.0696043
r21 46 49 0.342
r22 46 48 8.40918
r23 46 47 13.2552
r24 41 51 3.81101
r25 41 43 56.5
r26 37 51 3.81101
r27 37 39 33.5
r28 36 49 5.0159
r29 35 51 0.990414
r30 35 36 25.5
r31 33 50 49.5
r32 29 48 24.5
r33 25 26 16.3327
r34 23 25 4.59
r35 22 25 4.59
r36 20 21 5.44423
r37 18 20 1.53
r38 17 20 1.53
r39 13 21 0.322609
r40 13 14 0.031753
r41 12 26 0.188391
r42 12 14 0.031753
r43 10 16 0.0204164
r44 10 11 0.943478
r45 9 14 0.0059907
r46 8 16 0.018783
r47 8 9 0.2604
r48 6 11 0.039111
r49 6 7 2.41348
r50 5 57 0.0821739
r51 3 7 0.039111
r52 2 5 0.039111
r53 2 3 0.911522
.ends

.subckt PM_RING_OSCILLATOR%GND 23 24 31 36 37 41 42 46 47 51 52 56
c0 59 0 0.0781514f
c1 55 0 0.109843f
c2 50 0 0.109843f
c3 45 0 0.109843f
c4 40 0 0.109645f
c5 34 0 0.0873368f
c6 17 0 0.0337697f
c7 8 0 0.0337697f
c8 6 0 0.0337697f
c9 4 0 0.0337697f
c10 3 0 0.00189954f
c11 2 0 0.0322122f
r12 58 59 16.3327
r13 56 58 4.59
r14 54 55 16.3327
r15 52 54 4.59
r16 51 54 5.67
r17 49 50 16.3327
r18 47 49 4.59
r19 46 49 5.67
r20 44 45 16.3327
r21 42 44 4.59
r22 41 44 5.67
r23 39 40 16.3327
r24 37 39 4.59
r25 36 39 5.67
r26 33 34 16.3327
r27 31 33 4.59
r28 24 27 1.08885
r29 21 59 0.216391
r30 21 23 0.0267953
r31 19 55 0.216391
r32 19 20 0.0189182
r33 17 27 0.140897
r34 17 18 0.0187308
r35 16 50 0.216391
r36 16 18 0.0189182
r37 14 27 0.0762821
r38 14 15 0.0187308
r39 13 45 0.216391
r40 13 15 0.0189182
r41 11 40 0.216391
r42 11 12 0.0189182
r43 10 34 0.216391
r44 9 20 0.0187308
r45 8 23 0.0158023
r46 8 9 0.217179
r47 7 18 0.0187308
r48 6 20 0.0187308
r49 6 7 0.217179
r50 5 12 0.0187308
r51 4 15 0.0187308
r52 4 5 0.217179
r53 3 10 0.0425976
r54 2 12 0.0187308
r55 2 3 0.20641
.ends

.subckt PM_RING_OSCILLATOR%VDD 23 24 25 30 31 35 36 40 41 45 46 50
c0 53 0 0.344514f
c1 49 0 0.247658f
c2 44 0 0.247658f
c3 39 0 0.247658f
c4 34 0 0.247372f
c5 28 0 0.312003f
c6 21 0 0.0783908f
c7 20 0 0.0287037f
c8 18 0 0.0287037f
c9 17 0 0.141381f
c10 15 0 0.0287037f
c11 12 0 0.0287037f
c12 8 0 0.141433f
c13 6 0 0.141381f
c14 4 0 0.141381f
c15 3 0 0.0873337f
c16 2 0 0.134673f
r17 52 53 5.44423
r18 50 52 1.53
r19 48 49 5.44423
r20 46 48 1.53
r21 45 48 1.89
r22 43 44 5.44423
r23 41 43 1.53
r24 40 43 1.89
r25 38 39 5.44423
r26 36 38 1.53
r27 35 38 1.89
r28 33 34 5.44423
r29 31 33 1.53
r30 30 33 1.89
r31 27 28 5.44423
r32 25 27 1.53
r33 24 57 1.08885
r34 21 53 0.42913
r35 21 23 0.0267953
r36 19 49 0.42913
r37 19 20 0.0189182
r38 17 57 0.140897
r39 17 18 0.0187308
r40 16 44 0.42913
r41 16 18 0.0189182
r42 14 57 0.0762821
r43 14 15 0.0187308
r44 13 39 0.42913
r45 13 15 0.0189182
r46 11 34 0.42913
r47 11 12 0.0189182
r48 10 28 0.42913
r49 9 20 0.0187308
r50 8 23 0.0158023
r51 8 9 0.217179
r52 7 18 0.0187308
r53 6 20 0.0187308
r54 6 7 0.217179
r55 5 12 0.0187308
r56 4 15 0.0187308
r57 4 5 0.217179
r58 3 10 0.0425976
r59 2 12 0.0187308
r60 2 3 0.20641
.ends

