* File: inv.pex.netlist.pex
* Created: Wed Mar 23 15:28:51 2022
* Program "Calibre xRC"
* Version "v2016.4_15.11"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_INV%IN 4 8 16
c0 16 0 0.110261f
c1 11 0 0.0983797f
c2 8 0 0.142897f
c3 4 0 0.105861f
r4 11 14 8.59343
r5 11 13 8.62343
r6 11 16 13.2552
r7 8 14 56.5
r8 4 13 36.25
.ends

.subckt PM_INV%GND 2 9 15
c0 15 0 0.104383f
r1 12 15 0.333565
r2 11 12 16.3327
r3 9 11 4.59
r4 2 15 16.3327
.ends

.subckt PM_INV%VDD 2 3 17
c0 6 0 0.12873f
r1 6 17 0.336304
r2 5 6 8.16635
r3 3 5 2.295
r4 2 17 16.3327
.ends

.subckt PM_INV%OUT 2 7 15
c0 10 0 0.26957f
r1 10 15 0.223391
r2 9 10 16.3327
r3 7 9 4.59
r4 5 15 0.554217
r5 4 5 8.16635
r6 2 4 2.295
.ends

